US05599522
1,2,4,5-Tetrahydroxybenzene
2,5-Dihydroxy-1,4-benzoquinone (4.00 g, 28.55 mmol) was suspended in water (50 ml, distilled) followed by Na2S2O4 (10.00 g, 57.47 mmol) and HCl (5.5 g, 55.75 mmol conc. soln.). The mixture was stirred 30 min. at room temperature and evaporated to dryness. The residue was washed with THF (40 ml) and filtered. The THF was evaporated yielding 2.00 g (14.07 mmol, 49.3%) of the title substance.

reactant | 2,5-Dihydroxy-1,4-benzoquinone | 28.55 mmol, 4.00 g | OC=1C(C=C(C(C1)=O)O)=O | C6H4O4
reactant | Na2S2O4 | 57.47 mmol, 10.00 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | HCl | 55.75 mmol, 5.5 g | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 1,2,4,5-Tetrahydroxybenzene | OC1=C(C=C(C(=C1)O)O)O | C6H6O4
